US09216980B2
Step 1: 5-Bromo-2-fluoro-[3,4′]bipyridinyl-3′-ylamine
A mixture of 4-iodo-pyridin-3-ylamine (1.027 g, 4.67 mmol), 2-fluoro-5-bromopyridine-3-boronic acid (2.05 g, 9.33 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (191 mg, 0.233 mmol) in acetonitrile (12 mL) and 1N aqueous potassium fluoride solution (12 mL) was heated at 95° C. for 3 h. The reaction mixture was allowed to cool, treated with additional portions of the boronic acid (0.5 eq) and of catalyst (5.0 mol %), and heated under reflux overnight under a nitrogen atmosphere. The mixture was allowed to cool, diluted with DCM and water, and filtered to remove the solids. The filtrate layers were separated and the aqueous phase was extracted into DCM, and the combined organic phase concentrated in vacuo. The resultant residue was redissolved in 20% methanol in DCM and absorbed onto silica gel for purification by flash chromatography (silica, 100 g column, Biotage, 1-20% methanol in DCM) to afford the title compound as a brown solid (861 mg, 69%). 1H NMR (DMSO-D6, 400 MHz): 8.43 (d, J=1.1 Hz, 1H), 8.18 (dd, J=8.3 Hz, 2.5 Hz, 1H) 8.11 (s, 1H), 7.81 (d, J=4.8 Hz, 1H), 7.01 (d, J=4.8 Hz, 1H), 5.37 (s, 2H). LCMS (Method B): RT=0.95 min, M+H+=268/270.

reactant | 4-iodo-pyridin-3-ylamine | 4.67 mmol, 1.027 g | IC1=C(C=NC=C1)N | C5H5IN2
reactant | 2-fluoro-5-bromopyridine-3-boronic acid | 9.33 mmol, 2.05 g | FC1=NC=C(C=C1B(O)O)Br | C5H4BBrFNO2
reactant | boronic acid | 0.5 eq | B(O)O | BH3O2
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 1N, 12 mL | [F-].[K+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 0.233 mmol, 191 mg | ClCCl | CH2Cl2
product | 5-Bromo-2-fluoro-[3,4′]bipyridinyl-3′-ylamine | 861 mg, 69% | BrC=1C=C(C(=NC1)F)C1=C(C=NC=C1)N | C10H7BrFN3
